US05530138
1-[N-(1-Azabicyclo[3.3.0]octan-5-yl)methyl-N-methylamino]-4-methoxynaphthalene
To 1M borane-THF complex solution (40.0 ml, 40.0 mmol), 1-[N-(1-azabicyclo[3.3.0]octan-5-yl)methyl-N-formylamino]-4-methoxynaphthalene (2.90 g, 8.95 mmol) in absolute THF (20 ml) was added dropwise at 25° C. After refluxed for 1 hour, the reaction mixture was cooled, refluxed for 10 minutes subsequent to addition of 6N-HCl (10 ml), concentrated in vacuo, made into alkaline by addition of sodium hydroxide pellets, extracted by ethyl ether, dried over anhydrous sodium sulfate, concentrated in vacuo, and purified by chromatography to afford the desired compound (2.66 g, 96.0%), as a colorless liquid.

reactant | 1-[N-(1-azabicyclo[3.3.0]octan-5-yl)methyl-N-formylamino]-4-methoxynaphthalene | 8.95 mmol, 2.90 g | N12CCCC2(CCC1)CN(C=O)C1=CC=C(C2=CC=CC=C12)OC | C20H24N2O2
reactant | HCl | 10 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-[N-(1-Azabicyclo[3.3.0]octan-5-yl)methyl-N-methylamino]-4-methoxynaphthalene | 2.66 g, 96.0% | N12CCCC2(CCC1)CN(C)C1=CC=C(C2=CC=CC=C12)OC | C20H26N2O
